US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(indanone-4-oxy)-pyrazine, CJS 510
Using Method EE with 2-chloro-6-(indanone-4-oxy)-pyrazine (200 mg, 0.77 mmol) and 3,4,5-trimethoxyaniline (169 mg, 0.92 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (71 mg). Yield: 23%. 1H NMR (250 MHz, DMSO-d6) δ 2.69 (t, 2H, H3, J=3.7 Hz), 2.98 (t, 2H, H2, J=5.2 Hz), 3.43 (s, 6H, [CH3O]3+5), 3.59 (s, 3H, [CH3O]4), 6.75 (s, 2H, Harom2′+6′), 7.56-7.62 (m, 3H, Harom), 7.90 (s, 1H, HPz 5), 8.04 (s, 1H, HPz 3), 9.62 (s, 1H, NH). m/z: 408.1 [(M+H)+, calcd for C22H21N3O5 407.1].

reactant | 2-chloro-6-(indanone-4-oxy)-pyrazine | 0.77 mmol, 200 mg | ClC1=NC(=CN=C1)OC=1C=2CCC(C2C=CC1)=O | C13H9ClN2O2
reactant | 3,4,5-trimethoxyaniline | 0.92 mmol, 169 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(indanone-4-oxy)-pyrazine | Yield: 23% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC=1C=2CCC(C2C=CC1)=O | C22H21N3O5
